US06844345B2
e) 7-Ethyl-1H-indole-2-carboxylic acid ethyl ester
7-Ethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (76.6 g, 0.24 mol) was dissolved in 450 mL dichloromethane and cooled to 0° C. Trifluoroacetic acid (150.0 mL, 1.96 mol) was added within 30 min. and after an additional 45 min. the reaction mixture was concentrated at a rotary evaporator. The residue was dissolved in 300 mL dichloromethane and poured cautiously onto 500 mL saturated aq. sodium bicarbonate solution. The phases were separated and the aqueous phase was extracted twice with dichloromethane. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated on a rotary evaporator. The residue was suspended in 400 mL n-hexane and put in an ultrasonic bath for 15 min. The suspension was filtered and the filter cake was washed with 100 mL n-hexane. This procedure was repeated to give the desired product as a light brown solid (40.2 g, 76.6%). EI-MS: m/e 217.1 ([M]).

reactant | 7-Ethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.24 mol, 76.6 g | CCOC(=O)C=1N(C2=C(C=CC=C2C1)CC)C(=O)OC(C)(C)C | C18H23NO4
reactant | Trifluoroacetic acid | 1.96 mol, 150.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
product | 7-Ethyl-1H-indole-2-carboxylic acid ethyl ester | 40.2 g, 76.6% | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)CC | C13H15NO2
